US08048909B2
Ethyl 2-methyl-5-phenyl-1H-pyrrole-3-carboxylate
Ethyl 2-acetyl-4-oxo-4-phenylbutanoate (3.0 g) and ammonium acetate (1.39 g) were added to acetic acid (20 mL), and the mixture was stirred at 80° C. for 18 hr. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=9:1→1:1) to give the title compound as a brown solid (yield 1.25 g, 45%).

reactant | Ethyl 2-acetyl-4-oxo-4-phenylbutanoate | 3.0 g | C(C)(=O)C(C(=O)OCC)CC(C1=CC=CC=C1)=O | C14H16O4
reactant | ammonium acetate | 1.39 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | Ethyl 2-methyl-5-phenyl-1H-pyrrole-3-carboxylate | yield 1.25 g, 45% | CC=1NC(=CC1C(=O)OCC)C1=CC=CC=C1 | C14H15NO2
